US04731468
PREPARATION OF 5-HYDROXY-8-METHOXY-3,4-DIHYDRO-1H-NAPHTHACENE-2,6,11-TRIONE
A solution of the keten acetal VII (2.5 g; 8.9 mmol) in tetrahydrofuran (THF) (3 ml) is added dropwise at 0° C. to a solution of 3-chloro-6-methoxy-1,4-naphthoquinone (1.9 g; 8.6 mmol) in THF (20 ml). The reaction medium is stirred overnight at ambient temperature. After evaporation of the solvent, the solid obtained is added slowly to a solution of HF (25 ml)-SbF5 (5 ml) at -40° C. in a Teflon flask. The mixture is kept at -40° C. for 20 minutes and then poured slowly into 500 ml of a water/ice mixture. After extraction with methylene chloride, the organic phase is washed with water, dried over sodium sulfate and then evaporated. The tetracyclic ketone is purified by chromatography under pressure (eluent: CH2Cl2) (1.11 g; 40%).

reactant | 3-chloro-6-methoxy-1,4-naphthoquinone | 8.6 mmol, 1.9 g | ClC1=CC(C2=CC=C(C=C2C1=O)OC)=O | C11H7ClO3
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | 5-HYDROXY-8-METHOXY-3,4-DIHYDRO-1H-NAPHTHACENE-2,6,11-TRIONE | OC1=C2CCC(CC2=CC=2C(C3=CC=C(C=C3C(C12)=O)OC)=O)=O | C19H14O5
